US05981533
4-(3-Chloro-phenylamino)-3-(3-methoxy-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine
A mixture of 1.38 g (4.85 mmol) of 4-cyano-5-(dimethylamino-methyleneamino)-3-(3-methoxy-phenylamino)-pyrazole, 0.915 g (5.58 mmol) of 3-chloro-aniline hydrochloride and 20 ml of methanol is heated under reflux for 16 hours. Concentration of the reaction mixture by evaporation in vacuo and recrystallization of the residue from methanol/water yield the title compound; m.p. 202-203° C.

reactant | 4-cyano-5-(dimethylamino-methyleneamino)-3-(3-methoxy-phenylamino)-pyrazole | 4.85 mmol, 1.38 g | C(#N)C=1C(=NNC1N=CN(C)C)NC1=CC(=CC=C1)OC | C14H16N6O
reactant | 3-chloro-aniline hydrochloride | 5.58 mmol, 0.915 g | Cl.ClC=1C=C(N)C=CC1
solvent | methanol | 20 ml | CO | CH4O
product | 4-(3-Chloro-phenylamino)-3-(3-methoxy-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NC2=CC(=CC=C2)OC | C18H15ClN6O
